US09119868B2
Using oven dried glassware and under an atmosphere of nitrogen, anhydrous zinc chloride (25 g, 183 mmol) was stirred in anhydrous methanol (60 mL) then heated to a 75° C. internal temperature. Methyl 4-fluorobenzoylacetate (39.6 g, 202 mmol) was added as a single portion followed by dropwise addition of a solution of p-benzoquinone (19.83 g, 183 mmol) in anhydrous diethyl ether (500 mL) over 4 hours. This was performed with a simultaneous distillation of ether from the reaction mixture such that the reaction volume remained approximately constant (a bath temperature of 140° C. maintained an internal temperature initially at 75° C. then gradually increasing to a maximum of 115° C.). 2.5 hours after the start of the benzoquinone addition, more methanol (20 mL) was added to facilitate stirring. After addition of benzoquinone was complete, heating of the reaction mixture at 100° C. (internal) continued for 1 hour. The reaction mixture was cooled to room temperature and partitioned between water (500 mL) and ethyl acetate (800 mL). The insoluble solids were removed from the biphasic solution by filtration and the organic layer was then separated, dried (Na2SO4), filtered and evaporated under vacuum. The brown residue was slurried in warm dichloromethane (˜225 mL) and the mixture was left to stand in a refrigerator for 18 hours. The resulting solids were filtered from the dark brown solution, washed with a small volume of dichloromethane then dried under vacuum to give Methyl 2-(4-fluorophenyl)-5-hydroxy-1-benzofuran-3-carboxylate. LCMS (m/z, ES+)=285 (M−1).

reactant | Methyl 4-fluorobenzoylacetate | 202 mmol, 39.6 g | FC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9FO3
reactant | p-benzoquinone | 183 mmol, 19.83 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | methanol | 60 mL | CO | CH4O
solvent | diethyl ether | 500 mL | C(C)OCC | C4H10O
catalyst | zinc chloride | 183 mmol, 25 g | [Cl-].[Zn+2].[Cl-]
product | Methyl 2-(4-fluorophenyl)-5-hydroxy-1-benzofuran-3-carboxylate | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OC)C=C(C=C2)O | C16H11FO4
